* Z:\mnt\9a3f66c9-6d6d-4e50-b992-ca8f034e1022\Download\EEG\canal\canal.asc
XU1 EletrodoA EletrodoB V+ V- InAmp 0 N015 N018 INA823
R3 0 EletrodoA 100k
R4 0 EletrodoB 100k
V5 V+ 0 3.3
V6 0 V- 3.3
C1 V+ 0 1µ
C2 V- 0 1µ
R1 N015 N018 1.01k
V1 EletrodoA 0 SINE(0 800u 100) AC 1
XU2 N013 HP150m V+ V- HP150m LT1112
R2 N013 0 107k
C3 N013 InAmp 10µ
R20 N012 N011 10k
R21 N011 HP150m 10k
R22 N007 N012 43.2
C11 N008 N007 1µ
R23 N016 N008 162k
C12 N016 HP150m 1µ
R24 Notch60 N007 86.6
R25 N016 0 7.87Meg
XU10 0 N011 V+ V- N012 LT1124
XU11 0 N007 V+ V- N008 LT1124
XU12 N016 N017 V+ V- Notch60 LT1124
R26 Notch60 N017 1k
R27 N017 0 1k
XU4 0 N010 V+ V- LP160 LT1124
C6 LP160 N010 100n
R11 N010 N009 715
C7 N009 0 1.62µ
R12 N009 Notch60 499
R13 LP160 N009 5.23k
V2 N005 N004 SINE(0 100u 60) AC 1
V3 N006 N005 SINE(0 300u 100) AC 1
V4 0 N006 SINE(0 300u 500) AC 1
XU15 N020 N014 V+ V- offset LT1677
R40 N020 N019 1k
R41 N020 LP160 1k
V8 N019 0 1.65
R37 offset N014 1k
R38 N014 0 1k
XU5 N003 v+ N001 LT317A
R5 v+ N003 240
R6 N003 ground 390
C5 N001 ground 0.1µ
C4 v+ ground 1µ
V§Bateria N001 ground 9V
XU3 N001 N002 v- LM337
R7 v- N002 120
R8 N002 ground 200
C8 v- ground 1µ
C9 N001 ground 0.1µ
* K = 1 + (100k / Rg) p/ K = 100.0099 Rg = 1.01k
* AMPLIFICADOR DE INSTRUMENTAÇÃO
.tran 0 0.2 0.1
* High-Pass; 1st order Bessel; 150mHz passband; \nOptimize: Noise; +Vs: 3.3; -Vs: -3.3; GBW comp
* Analog Filter Wizard
* Bandstop Filter- 2nd order Bessel  Passband:\nAo: 1.000 V/V, Fc: 60 Hz, BWp: 1 Hz, Rp: 1.000 dB\nStopband:\nBWs: 100 mHz, Asb: -40.00 dB, Gain 2V/V
* TI Filter Design Tool
* Lowpass Filter- 2nd order Bessel\nPassband: Ao: 10.60 V/V, Fp: 160 Hz, Rp: 1.000 dB\nStopband: Fs: 1.6 kHz, Asb: -40.00 dB\nMultiple feedback - TI filter design tool
* Offset de 1.65V para remover a parte negativa
* Vout = 1.25 × (1 + R2/R1) + (I_adj × R2)\n3.30075 = 1.25 + (1.25×390)/240 + 0.00005×390
* Vout = -1.25 × (1 + R2/R1) + (-I_adj × R2)\n-3.32 = -1,25 * (1 + 200/120) - (0,00005 × 200)
.lib LM337.sub
.lib LTC.lib
.lib Z:\mnt\9a3f66c9-6d6d-4e50-b992-ca8f034e1022\Download\EEG\canal\INA823.LIB
.backanno
.end
