* Z:\mnt\9a3f66c9-6d6d-4e50-b992-ca8f034e1022\Download\EEG\canal\canal.asc
XU1 EletrodoA EletrodoB V+ V- InAmp 0 N015 N018 INA823
R3 0 EletrodoA 100k
R4 0 EletrodoB 100k
C1 V+ 0 1µ
C2 V- 0 1µ
R1 N015 N018 1.01k
V1 EletrodoA EletrodoB SINE(0 800u 100) AC 1
XU2 N014 HP150m V+ V- HP150m LT1112
R2 N014 0 107k
C3 N014 InAmp 10µ
R20 N010 N009 10k
R21 N009 HP150m 10k
R22 N005 N010 43.2
C11 N006 N005 1µ
R23 N011 N006 162k
C12 N011 HP150m 1µ
R24 Notch60 N005 86.6
R25 N011 0 7.87Meg
XU10 0 N009 V+ V- N010 LT1124
XU11 0 N005 V+ V- N006 LT1124
XU12 N011 N012 V+ V- Notch60 LT1124
R26 Notch60 N012 1k
R27 N012 0 1k
XU4 0 N008 V+ V- LP160 LT1124
C6 LP160 N008 100n
R11 N008 N007 715
C7 N007 0 1.62µ
R12 N007 Notch60 499
R13 LP160 N007 5.23k
XU15 N017 N013 V+ V- offset LT1677
R40 N017 N016 1k
R41 N017 LP160 1k
V8 N016 0 1.65
R37 offset N013 1k
R38 N013 0 1k
XU6 N002 V+ N001 LT317A
R9 V+ N002 120
R10 N002 0 200
C10 N001 0 0.1µ
C13 V+ 0 1µ
XU7 N004 N003 V- LM337
R14 V- N003 120
R15 N003 0 200
C14 V- 0 1µ
V§Bateria N001 N004 9
C4 0 N004 0.1µ
R5 N001 0 1Meg
R6 0 N004 1Meg
C5 0 N004 1000µ
C8 N001 0 1000µ
* K = 1 + (100k / Rg) p/ K = 100.0099 Rg = 1.01k
* AMPLIFICADOR DE INSTRUMENTAÇÃO
.tran 0 0.8 0.7
* High-Pass; 1st order Bessel; 150mHz passband; \nOptimize: Noise; +Vs: 3.3; -Vs: -3.3; GBW comp
* Analog Filter Wizard
* Bandstop Filter- 2nd order Bessel  Passband:\nAo: 1.000 V/V, Fc: 60 Hz, BWp: 1 Hz, Rp: 1.000 dB\nStopband:\nBWs: 100 mHz, Asb: -40.00 dB, Gain 2V/V
* TI Filter Design Tool
* Lowpass Filter- 2nd order Bessel\nPassband: Ao: 10.60 V/V, Fp: 160 Hz, Rp: 1.000 dB\nStopband: Fs: 1.6 kHz, Asb: -40.00 dB\nMultiple feedback - TI filter design tool
* Offset de 1.65V para remover a parte negativa
* Vout = -1.25 × (1 + R2/R1) + (-I_adj × R2)\n-3.32 = -1,25 * (1 + 200/120) - (0,00005 × 200)
* Fonte simétrica +-3.3V\nAlimentado por bateria de 9V
* FONTE
* CANAL
* Vout = 1.25 × (1 + R2/R1) + (I_adj × R2)
.lib INA823.sub
.lib LM337.sub
.lib LTC.lib
.backanno
.end
